US08357679B2
B: 2-(4-((1,4-Diazepan-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
A mixture of tert-butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-1,4-diazepane-1-carboxylate (15.34 mmol, 7 g), dichloromethane (15 mL) and trifluoroacetic acid (15.00 mL) was stirred for 24 hours. The reaction was purified by SCX chromatography to give the title compound (4.2 g). MS (ESI) m/z 357.1 [M+H]+

reactant | tert-butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-1,4-diazepane-1-carboxylate | 15.34 mmol, 7 g | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CCC2)C(=O)OC(C)(C)C)C=C1)(F)F | C20H26F6N2O3
reactant | trifluoroacetic acid | 15.00 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(4-((1,4-Diazepan-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 4.2 g | N1(CCNCCC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C15H18F6N2O
